US09428465B2
N-hexyl-6,6-dimethyl-2,4-dioxo-pyrimidine-1-carboxamide
Triphosgene (0.12 g, 0.71 mmol) was added to dry pyridine (2.0 mL) at 0° C. The mixture was stirred for 10 min, then a solution of 5,6-dimethyluracil (0.10 g, 0.71 mmol) in dry pyridine (3.0 mL) was added dropwise. The pale yellow suspension formed was stirred at room temperature for 5 hrs, then cooled to 0° C. before adding hexylamine (0.10 mL, 0.71 mmol). The reaction mixture was stirred at room temperature for 18 hrs. Water (30 mL) was added, and the product extracted with EtOAc (3×30 mL). The combined organic layer was dried over Na2SO4 and the solvent removed under reduced pressure. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 90:10) to afford the title compound (0.02 g, 6%) as white powder. 1H NMR (400 MHz, CDCl3) δ 0.90 (t, J=6.6 Hz, 3H), 1.25-1.38 (m, 6H), 1.53-1.67 (m, 2H), 1.83 (br s, 3H), 2.19 (br s, 3H), 3.30 (dt, J=5.6, 70 Hz, 2H), 7.42-7.65 (m, 1H), 9.68 (br s, 1H). 13C NMR (101 MHz, CDCl3): δ 9.00, 13.34, 15.77, 22.35, 26.12, 28.91, 31.30, 40.70, 104.68, 146.24, 149.35, 162.15, 164.20. MS (ESI) m/z: 266 [M-H]−.

reactant | Triphosgene | 0.71 mmol, 0.12 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5,6-dimethyluracil | 0.71 mmol, 0.10 g | CC=1C(NC(NC1C)=O)=O | C6H8N2O2
reactant | hexylamine | 0.71 mmol, 0.10 mL | C(CCCCC)N | C6H15N
reactant | Water | 30 mL | O | H2O
reactant | pyridine | 3.0 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | N-hexyl-6,6-dimethyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.02 g, 6% | C(CCCCC)NC(=O)N1C(NC(CC1(C)C)=O)=O | C13H23N3O3
